US08735385B2
2-[2-Fluoro-4-(4-pyrrolidin-1-yl-cyclohexyl)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one hydrochloride
The title compound was prepared in the same manner as Example 17 by using hydrochloric acid in dioxane to hydrolyze 2-[2-fluoro-4-(4-pyrrolidin-1-yl-cyclohexyl)-phenyl]-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-[2-fluoro-4-(4-pyrrolidin-1-yl-cyclohexyl)-phenyl]-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)C2CCC(CC2)N2CCCC2)F)CC1 | C29H42FN3O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[2-Fluoro-4-(4-pyrrolidin-1-yl-cyclohexyl)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one hydrochloride | Cl.FC1=C(C=CC(=C1)C1CCC(CC1)N1CCCC1)N1C(C2(CC1)CCNCC2)=O | InChI=1S/C24H34FN3O.ClH/c25-21-17-19(18-3-6-20(7-4-18)27-14-1-2-15-27)5-8-22(21)28-16-11-24(23(28)29)9-12-26-13-10-24;/h5,8,17-18,20,26H,1-4,6-7,9-16H2;1H
